US07354944B2
This compound was prepared in a manner similar to that shown in Scheme 3, using 5-bromo-6-methyl-1H-indazole as the starting material, which was prepared in a manner similar to that of 5-bromo-6-fluoro-1H-indazole. The starting material was treated with t-butyl lithium and carbon dioxide to yield 6-methyl-1H-indazole-5-carboxylic acid, which was in turn treated with thiosemicarbazide and polyphosphoric acid to form 94.

reactant | 5-bromo-6-methyl-1H-indazole | BrC=1C=C2C=NNC2=CC1C | C8H7BrN2
reactant | 5-bromo-6-fluoro-1H-indazole | BrC=1C=C2C=NNC2=CC1F | C7H4BrFN2
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
product | 6-methyl-1H-indazole-5-carboxylic acid | CC1=C(C=C2C=NNC2=C1)C(=O)O | C9H8N2O2
